US04268511
Preparation of 6-chloro-3-morpholino(1H,3H)quinazoline-2,4-dione (cyclization with phosgene)
23.5 g 2-Amino-5-chloro-N-morpholinobenzamide are dissolved in 500 cc 2N hydrochloric acid. A phosgene stream is passed through the solution for 1 hour. When the reaction is complete, the equipment is purged, after which the resulting material is suction filtered and washed with water. It is purified by crystallization from ethanol, M.P.=335° C.

reactant | 2-Amino-5-chloro-N-morpholinobenzamide | 23.5 g | NC1=C(C(=O)NN2CCOCC2)C=C(C=C1)Cl | C11H14ClN3O2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | hydrochloric acid | 2N, 500 cc | Cl | ClH
product | 6-chloro-3-morpholino(1H,3H)quinazoline-2,4-dione | ClC=1C=C2C(N(C(NC2=CC1)=O)N1CCOCC1)=O | C12H12ClN3O3
